US04617393
(Step a) Preparation of 2,5-Dimethyl-4,6-dihydroxypyrimidine
According to the procedure of D. J. Brown et al., J. Chem. Soc. 1964, 3204, a solution of 9.2 g (400 mmol) of sodium metal dissolved in 200 mL of methanol was treated first with 19.8 g. (210 mmol) of acetamidine hydrochloride and then with 34.4 mL (34.8 g, 200 mmol) of diethyl methyl malonate. The reaction mixture was heated to reflux for 4 hours, cooled to 23° C., and filtered. The filtrate was concentrated in vacuo. The residue from the filtrate and the isolated solids were combined and dissolved in water (300 mL). The aqueous solution was acidified with aqueous 3N HCl (133 mL). The fine white solid which precipitated from this solution was isolated by filtration and dried in vacuo to give 24.9 g (89%) of pure product, m.p. 300° C.

reactant | sodium | 400 mmol, 9.2 g | [Na] | Na
reactant | acetamidine hydrochloride | 210 mmol | Cl.C(C)(=N)N
reactant | diethyl methyl malonate | 200 mmol, 34.4 mL, 34.8 g | CCC(C(=O)OC)C(=O)OCC | C8H14O4
solvent | methanol | 200 mL | CO | CH4O
product | 2,5-Dimethyl-4,6-dihydroxypyrimidine | 24.9 g, 89% | CC1=NC(=C(C(=N1)O)C)O | C6H8N2O2
